US06165944
At 5-10° C., 2.00 g (6.3 mmol) of 2,4-dichloro-3-(3-i-propyl-1,2,4-oxadiazol-5-yl)benzoyl chloride in 10 ml of dimethoxyethane were added dropwise to 0.62 g (6.3 mmol) of 5-hydroxy-1-methyl-1H-pyrazole and 1.74 g (12.6 mmol) of potassium carbonate in 20 ml of dimethoxyethane. After 2.5 hours of stirring at room temperature, the mixture was heated under reflux for 2 hours and then once more stirred at room temperature for 12 hours. The reaction mixture was then taken up in water and washed with methylene chloride or toluene; the aqueous phase that remained was adjusted to pH=3 using hydrochloric acid and the precipitate that had formed was filtered off with suction and dried. 1.90 g (79% of theory) of 4-[2,4-dichloro-3-(3-i-propyl-1,2,4-oxadiazol-5-yl)benzoyl]-5-hydroxy-1-methyl-1H-pyrazole were obtained.

reactant | 2,4-dichloro-3-(3-i-propyl-1,2,4-oxadiazol-5-yl)benzoyl chloride | 6.3 mmol, 2.00 g | ClC1=C(C(=O)Cl)C=CC(=C1C1=NC(=NO1)C(C)C)Cl | C12H9Cl3N2O2
reactant | 5-hydroxy-1-methyl-1H-pyrazole | 6.3 mmol, 0.62 g | OC1=CC=NN1C | C4H6N2O
reactant | potassium carbonate | 12.6 mmol, 1.74 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethoxyethane | 10 ml | C(OC)COC | C4H10O2
solvent | dimethoxyethane | 20 ml | C(OC)COC | C4H10O2
solvent | water | O | H2O
product | 4-[2,4-dichloro-3-(3-i-propyl-1,2,4-oxadiazol-5-yl)benzoyl]-5-hydroxy-1-methyl-1H-pyrazole | 1.90 g, 79% | ClC1=C(C(=O)C=2C=NN(C2O)C)C=CC(=C1C1=NC(=NO1)C(C)C)Cl | C16H14Cl2N4O3
